US07456218B2
3-(4-{[4′-(2-ethoxyethoxy)-2′,6′-dimethylbiphenyl-3-yl]methoxy}-2-fluorophenyl)propanamide
A mixture of 3-(4-{[4′-(2-ethoxyethoxy)-2′,6′-dimethylbiphenyl-3-yl]methoxy}-2-fluorophenyl)propanoic acid (0.233 g, 0.500 mmol), 7 M ammonia/methanol (0.4 mL, 2.80 mmol) solution, 1-ethyl-3-(3-aminopropyl)carbodiimide hydrochloride (2.88 g, 1.50 mmol), 1-hydroxybenzotriazole (0.230 g, 1.50 mmol), 1,8-diazabicyclo[5.4.0]-7-undecene (0.448 mL, 3.00 mmol), triethylamine (0.502 mL, 3.60 mmol) and acetonitrile (3 mL) was stirred at room temperature for 27 hrs. The reaction mixture was poured into saturated aqueous sodium hydrogen carbonate solution and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by basic silica gel column chromatography (50% ethyl acetate/hexane-ethyl acetate) to give the title compound (0.186 g, yield 80%) as a colorless oil.

reactant | 3-(4-{[4′-(2-ethoxyethoxy)-2′,6′-dimethylbiphenyl-3-yl]methoxy}-2-fluorophenyl)propanoic acid | 0.500 mmol, 0.233 g | C(C)OCCOC1=CC(=C(C(=C1)C)C1=CC(=CC=C1)COC1=CC(=C(C=C1)CCC(=O)O)F)C | C28H31FO5
reactant | ammonia methanol | 2.80 mmol, 7 M, 0.4 mL | N.CO
reactant | 1-ethyl-3-(3-aminopropyl)carbodiimide hydrochloride | 1.50 mmol, 2.88 g | Cl.C(C)N=C=NCCCN
reactant | 1-hydroxybenzotriazole | 1.50 mmol, 0.230 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1,8-diazabicyclo[5.4.0]-7-undecene | 3.00 mmol, 0.448 mL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | triethylamine | 3.60 mmol, 0.502 mL | C(C)N(CC)CC | C6H15N
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
product | 3-(4-{[4′-(2-ethoxyethoxy)-2′,6′-dimethylbiphenyl-3-yl]methoxy}-2-fluorophenyl)propanamide | 0.186 g, yield 80% | C(C)OCCOC1=CC(=C(C(=C1)C)C1=CC(=CC=C1)COC1=CC(=C(C=C1)CCC(=O)N)F)C | C28H32FNO4
